US04699908
A mixture of 12.2 parts of 4(4-morpholino-3-nitrophenyl)-4-oxo-3-methylbutanoic acid, 3.8 parts of hydrazine hydrate in 50 parts by volume of absolute ethanol is heated at reflux for 4 hours, cooled and filtered. The solid product is collected, washed with hexane and dried at 80° C. under vacuum to give 6-(4-morpholino-3-nitrophenyl)-4,5-dihydro-5-methyl-3(2H)pyridazinone melting at 223°-225° C. Recrystallisation from a mixture of ethanol and dimethylformamide raises the melting point to 225°-227° C.

reactant | 4(4-morpholino-3-nitrophenyl)-4-oxo-3-methylbutanoic acid | O1CCN(CC1)C1=C(C=C(C=C1)C(C(CC(=O)O)C)=O)[N+](=O)[O-] | C15H18N2O6
reactant | hydrazine hydrate | O.NN
solvent | ethanol | C(C)O | C2H6O
product | 6-(4-morpholino-3-nitrophenyl)-4,5-dihydro-5-methyl-3(2H)pyridazinone | O1CCN(CC1)C1=C(C=C(C=C1)C=1C(CC(NN1)=O)C)[N+](=O)[O-] | C15H18N4O4
